US09056859B2
To a mixture of methyl (2-chloro-4-cyano-5-methoxyphenyl)acetate (30 mg, 0.125 mmol) in 15 mL of THF/MeOH/H2O (V/V/V=2:2:1) was added LiOH H2O (11 mg, 0.250 mmol). The mixture was stirred at rt. For 1 hr, and then most of the solvent was concentrated. The residue was diluted with water, adjusted pH=3 with 3 N HCl, and then extracted with EtOAc. The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated to give (2-chloro-4-cyano-5-methoxyphenyl)acetic acid. 1H-NMR (400 MHz, CDCl3) δ ppm 7.56 (s, 1H), 6.91 (s, 1H), 3.92 (s, 3H), 3.83 (s, 2H).

reactant | methyl (2-chloro-4-cyano-5-methoxyphenyl)acetate | 0.125 mmol, 30 mg | ClC1=C(C=C(C(=C1)C#N)OC)CC(=O)OC | C11H10ClNO3
reactant | LiOH H2O | 0.250 mmol, 11 mg | O[Li].O
solvent | THF MeOH H2O | 15 mL | C1CCOC1.CO.O
product | (2-chloro-4-cyano-5-methoxyphenyl)acetic acid | ClC1=C(C=C(C(=C1)C#N)OC)CC(=O)O | C10H8ClNO3
